US07465726B2
1-Methyl-5-nitro-1H-pyridin-2-one
Tetra-N-butylammonium bromide (3220 mg, 10.00 mmol), sodium hydroxide (400.0 mg, 10.00 mmol) and methyl iodide (3113 μL, 50.00 mmol) were sequentially added into the two-phase mixture of 2-hydroxy-5-nitropyridine (700.0 mg, 5.000 mmol) in water (25 mL) and methylene chloride (50 mL). The above mixture was stirred at rt for 1 h and then partitioned between CH2Cl2 (50 mL) and water (75 mL). The aqueous layer was extracted with CH2Cl2 (50 mL). The combined organic phases were dried over MgSO4, filtered, and concentrated in vacuo to obtain a beige solid. Silica gel (134 g) was used to purify the above solid eluting with 2500 mL EtOAc to obtain the title compound as beige powder. 1H NMR (CDCl3, 400 MHz): δ=3.66 (s, 3H), 6.57 (d, 1H, J=10.0 Hz), 8.10 (dd, 1H, J=2.8 & 10.0 Hz), 8.63 (d, 1H, J=2.8 Hz). MS (ES+): m/z 155.15 (100) [MH+]. HPLC: tR'1.69 min (ZQ2000, polar—5 min).

reactant | sodium hydroxide | 10.00 mmol, 400.0 mg | [OH-].[Na+]
reactant | methyl iodide | 50.00 mmol, 3113 μL | CI | CH3I
reactant | 2-hydroxy-5-nitropyridine | 5.000 mmol, 700.0 mg | OC1=NC=C(C=C1)[N+](=O)[O-] | C5H4N2O3
catalyst | Tetra-N-butylammonium bromide | 10.00 mmol, 3220 mg | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | water | 25 mL | O | H2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-Methyl-5-nitro-1H-pyridin-2-one | CN1C(C=CC(=C1)[N+](=O)[O-])=O | C6H6N2O3
